US09212190B2
To a solution of anhydrous DIPA (26.7 g, 263.86 mmol, 3.00 equiv) in freshly distilled THF (500 mL) was added n-BuLi (2.5 M in hexane, 110 mL) dropwise with stirring at −78° C. under nitrogen. After the addition, the resulting solution was stirred for 0.5 h at −78° C. To this was added dropwise a solution of methyl 4-[(tert-butyldimethylsilyl)oxy]cyclohexane-1-carboxylate (24 g, 88.09 mmol, 1.00 equiv) in 50 mL of THF and the resulting solution was allowed to react for an additional 1 h at −78° C. To the mixture was added CH3I (62.64 g, 441.31 mmol, 5.01 equiv) dropwise with stirring at this low temperature. Stirring was continued for 1 h. The reaction was quenched with water and extracted with 3×150 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/10) to provide the desired methyl 4-[(tert-butyldimethylsilyl)oxy]-1-methylcyclohexane-1-carboxylate (22.0 g, 87%) as a colorless oil.

reactant | n-BuLi | 2.5 M, 110 mL | [Li]CCCC
reactant | methyl 4-[(tert-butyldimethylsilyl)oxy]cyclohexane-1-carboxylate | 88.09 mmol, 24 g, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)C(=O)OC | C14H28O3Si
reactant | CH3I | 441.31 mmol, 62.64 g, 5.01 equiv | CI | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | methyl 4-[(tert-butyldimethylsilyl)oxy]-1-methylcyclohexane-1-carboxylate | 22.0 g, 87% | [Si](C)(C)(C(C)(C)C)OC1CCC(CC1)(C(=O)OC)C | C15H30O3Si
